US08466122B2
A 500 mL round bottom flask was charged with 3-(allyloxy)propane-1,2-diol (2.6 g, 19.8 mmol), linoleyl mesylate (15.0 g, 43.5 mmol), tetrabutylammonium hydrogen sulfate (3.4 g, 9.9 mmol), toluene (600 mL) and 40% NaOH (30 mL). The reagents were vigorously stirred (emulsified) for 80 hours at room temperature. Upon completion, the solution was diluted with water (100 mL) and toluene (100 mL). The toluene was separated and the remaining aqueous solution was extracted with toluene (150 mL). The combine toluene extracts were dried on magnesium sulfate, filtered and concentrated in vacuo to dryness. The residue was purified by column chromatography on silica gel 60 (eluted with 5% diethyl ether in hexanes) to afford (6Z,9Z)-18-(3-(allyloxy)-2-((9Z,12Z)-octadeca-9,12-dienyloxy)propoxy)octadeca-6,9-diene as a colorless oil (9.1 g, 73%).

reactant | 3-(allyloxy)propane-1,2-diol | 19.8 mmol, 2.6 g | C(C=C)OCC(CO)O | C6H12O3
reactant | linoleyl mesylate | 43.5 mmol, 15.0 g | S(C)(=O)(=O)OCCCCCCCC\C=C/C\C=C/CCCCC | C19H36O3S
reactant | NaOH | 30 mL | [OH-].[Na+]
catalyst | tetrabutylammonium hydrogen sulfate | 9.9 mmol, 3.4 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 100 mL | O | H2O
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | (6Z,9Z)-18-(3-(allyloxy)-2-((9Z,12Z)-octadeca-9,12-dienyloxy)propoxy)octadeca-6,9-diene | 9.1 g, 73% | C(C=C)OCC(COCCCCCCCC\C=C/C\C=C/CCCCC)OCCCCCCCC\C=C/C\C=C/CCCCC | C42H76O3
